US06432656B1
Preparation of N-(2-Hydroxy-3-phenoxypropyl)-1,1-dimethyl-2-(4-chlorophenyl)ethylamine Hydrochloride, Compound 103
Using the method of Example 6, supra, 1,2-epoxy-3-phenoxypropane (950 mg, 6.3 mmol) and 1,1-dimethyl-2-(4-chlorophenyl)ethylamine (1.45 g, 7.9 mmol) were used to prepare 150 mg of the title compound as a white solid: GC/EI-MS, m/z (rel. int.) 318 (M−15, 7), 209 (47), 208 (100), 127 (11), 125 (33), 114 (13), 107 (12), 77 (23), 71 (16), 70 (29), 58 (13).

reactant | 1,2-epoxy-3-phenoxypropane | 6.3 mmol, 950 mg | O1CC1COC1=CC=CC=C1 | C9H10O2
reactant | 1,1-dimethyl-2-(4-chlorophenyl)ethylamine | 7.9 mmol, 1.45 g | CC(CC1=CC=C(C=C1)Cl)(C)N | C10H14ClN
product | N-(2-Hydroxy-3-phenoxypropyl)-1,1-dimethyl-2-(4-chlorophenyl)ethylamine Hydrochloride | 150 mg | Cl.OC(CNC(CC1=CC=C(C=C1)Cl)(C)C)COC1=CC=CC=C1 | InChI=1S/C19H24ClNO2.ClH/c1-19(2,12-15-8-10-16(20)11-9-15)21-13-17(22)14-23-18-6-4-3-5-7-18;/h3-11,17,21-22H,12-14H2,1-2H3;1H
